US04017620
To a solution of 0.086 g. of 4-acetoxy-6-(2-chlorophenyl)-8-ethyl-4H-thieno[3,2-f]-s-triazolo[1,5-a][1,4]diazepine-2-carboxamide in 3 ml. of methanol is added one drop of concentrated sulfuric acid and the resulting mixture is refluxed for 5 minutes. After evaporation of the solvent a saturated aqueous sodium hydrogen carbonate solution is added to the residue. The resulting precipitate is collected by filtration to give 6-(2-chlorophenyl)-8-ethyl-4-methoxy-4H-thieno[3,2-f]-s-triazolo[1,5-a][1,4]diazepine-2-carboxamide as crystals. Recrystallization from ethyl acetate gives powdery crystals melting at 200° to 201° C.

reactant | 4-acetoxy-6-(2-chlorophenyl)-8-ethyl-4H-thieno[3,2-f]-s-triazolo[1,5-a][1,4]diazepine-2-carboxamide | C(C)(=O)OC1C=2N(C3=C(C(=N1)C1=C(C=CC=C1)Cl)C=C(S3)CC)N=C(N2)C(=O)N | C19H16ClN5O3S
catalyst | sulfuric acid | one drop | S(O)(O)(=O)=O | H2O4S
solvent | methanol | CO | CH4O
product | 6-(2-chlorophenyl)-8-ethyl-4-methoxy-4H-thieno[3,2-f]-s-triazolo[1,5-a][1,4]diazepine-2-carboxamide | ClC1=C(C=CC=C1)C1=NC(C=2N(C3=C1C=C(S3)CC)N=C(N2)C(=O)N)OC | C18H16ClN5O2S
